US07179820B2
EDCI (288 mg, 1.50 mmol) was added to a solution of [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile (118 mg, 0.50 mmol) in benzene (4 mL). The reaction mixture was cooled to 0° C. and DMSO (0.14 mL, 2.0 mmol) was added. After 5 min at 0° C., pyridinium trifluoroacetate (106 mg, 0.55 mmol) was added. The reaction was allowed to warm to rt and then was stirred at rt for 3 h. The solution was decanted from the oily residue and the residue was washed with benzene (3×5 mL). The combined benzene phases were concentrated in vacuo to afford crude [4-((R)-2-formyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile, which was used without further purification.

reactant | EDCI | 1.50 mmol, 288 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile | 0.50 mmol, 118 mg | OC[C@@H]1N(C(CCC1)=O)CC#CCOCC#N | C12H16N2O3
reactant | DMSO | 2.0 mmol, 0.14 mL | CS(=O)C | C2H6OS
reactant | pyridinium trifluoroacetate | 0.55 mmol, 106 mg | FC(C(=O)[O-])(F)F.[NH+]1=CC=CC=C1
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
product | [4-((R)-2-formyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetonitrile | C(=O)[C@@H]1N(C(CCC1)=O)CC#CCOCC#N | C12H14N2O3
